US06492516B1
Step 3B: (S)-1-[2-(1-phenylethylamino)pyrimidin4-yl]-2-(3-trifluoromethylphenyl)-1H-imidazole-4-carboxylic acid piperidin-4-ylamide
(S)-1-[2-(1-Phenyl-ethylamino)-pyrimidin-4-yl]-2-(3-trifluoromethyl-phenyl)-1H-imidazole-4-carboxylic acid-N-t-butoxycarbonylpiperidin-4-ylamide (600 mg) was dissolved in 10 mL CH2Cl12 and cooled to 0° C. before adding 3 mL TFA. The reaction was allowed to warm to room temperature and stirred for 1 h. Concentration and prep HPLC on a Delta-Pak™ 40 mm×200 mm C8 column from 100/0 H2O/CH3CN to 5/95 H2O/CH3CN over 30 min yielded 280 mg of the title compound after lyophilization as a granular solid.

reactant | (S)-1-[2-(1-Phenyl-ethylamino)-pyrimidin-4-yl]-2-(3-trifluoromethyl-phenyl)-1H-imidazole-4-carboxylic acid-N-t-butoxycarbonylpiperidin-4-ylamide | 600 mg | C(C)(C)(C)OC(=O)N(C(=O)C=1N=C(N(C1)C1=NC(=NC=C1)N[C@@H](C)C1=CC=CC=C1)C1=CC(=CC=C1)C(F)(F)F)C1CCNCC1 | C33H36F3N7O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-1-[2-(1-phenylethylamino)pyrimidin4-yl]-2-(3-trifluoromethylphenyl)-1H-imidazole-4-carboxylic acid piperidin-4-ylamide | 280 mg | N1CCC(CC1)NC(=O)C=1N=C(N(C1)C1=NC(=NC=C1)N[C@@H](C)C1=CC=CC=C1)C1=CC(=CC=C1)C(F)(F)F | C28H28F3N7O
